US04352930
Biguanide was prepared fresh by refluxing anhydrous biguanide sulfate in a methanol solution of freshly prepared sodium methylate by the method of Slotta et al. (Slotta, K. H., Tschesche, R., Ber. Dtsch. Chem. Ges. 1929, B62, 1390-1398). The biguanide was used in solution as prepared for all of the reactions. Because sodium sulfate formed in the preparation of biguanide did not interfere with subsequent reactions, it was not necessary to separate it from the biguanide. Ethyl malonamate used in the preparation of Ib (see Example I below) was prepared as follows by methods of Galat and Marguery (Galat, A., J. Am. Chem. Soc. 1948, 70, 2596 and Marguery, M. F., Bull. Soc. Chem. France 1905, 33, 541; J. Recherces Centr. Nalt. Recherche Sci., Labs. Bellevue (Pairs) 1959, 47, 147), through Chem. Abstr. 1962, 56, 4744g.): Diethyl malonate was converted to the mono-potassium salt of the half-ester. The latter was converted to ethyl malonyl chloride, which in turn was reacted with anhydrous ammonia in ice-cold ether to form ethyl malonamate.

reactant | Diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | mono-potassium | [K] | K
reactant | ethyl malonyl chloride | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | ammonia | N | H3N
product | ethyl malonamate | C(CC(=O)N)(=O)OCC | C5H9NO3
